US06541638B2
A solution of 25 g (93 mmol) (2S,4R)-1-Methanesulfonyl-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid in 265 ml CH2Cl2 at 0° C. was treated with 2 drops of DMF followed by 8 ml (99 mmol) oxalylchloride. After 15 min at 0° C. the reaction was stirred 2 h at RT, evaporated and dissolved in 260 ml THF/CH3CN 1:1. 58.5 ml (117 mmol) 2M trimethylsilyldiazomethane solution in hexane was then added at 0° C.. The reaction was stirred 16h at RT, evaporated and poured in H2O/EtOAc. The organic phase was dried over Na2SO4, evaporated and purified by flash column chromatography on silicagel with hexane/EtOAc (7:3 to 1:1) to give 12.4 g (48%) of (2S,4R)-2-Diazo-1-(1-methanesulfonyl-4-tritylsulfanyl-pyrrolidin-2-yl)-ethanone, MS: 509 (MNH4+).

reactant | (2S,4R)-1-Methanesulfonyl-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid | 93 mmol, 25 g | CS(=O)(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C25H25NO4S2
reactant | oxalylchloride | 99 mmol, 8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trimethylsilyldiazomethane | 117 mmol, 2M, 58.5 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | CH2Cl2 | 265 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | (2S,4R)-2-Diazo-1-(1-methanesulfonyl-4-tritylsulfanyl-pyrrolidin-2-yl)-ethanone | 12.4 g, 48% | [N+](=[N-])=CC(=O)[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C | C26H25N3O3S2
